***************************************************************												
*	Infineon	Technologies	AG									
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX				
*	VALID	UP	TO	10	GHZ							
*	>>>	BFR340F	<<<								
*	(C)	2012	Infineon	Technologies	AG							
*	Version 2.0	January	2012							
***************************************************************
* - Please use the global SPICE parameter TEMP to set the junction
*   temperature of this device in your circuit to get correct DC 
*   simulation results. 
* - TEMP is calculated by TEMP=TA+P*(RthJS+RthSA). The junction 
*   temperature TEMP is the sum of the ambient temperature TA and 
*   the temperature increment caused by the dissipated power 
*   P=VCE*IC (IC collector current, VCE collector-emitter voltage). 
* - RthJS is the thermal resistance between the junction and the 
*   soldering point. RthJS for this device is 530 K/W. RthSA is the 
*   thermal resistance of the PCB, from the soldering point to the 
*   ambient. For determination of RthSA please refer to Infineon's 
*   Application Note "Thermal Resistance Calculation" AN077.
* - The model has been verified in the junction temperature range
*   0°C to +100°C.
* - TNOM=25 °C is the nominal ambient temperature.
*   Please do not change this value.
****************************************************************												
*BFR340F C B E
.SUBCKT BFR340F 1 2 3

CBEPAR 22 33 3.138E-014
CBCPAR 22 11 5.04E-014
CCEPAR 11 33 1.229E-013
LB    22 20 5.086E-010
LE   33 30 4.152E-010
LBx    20 2 4.824E-011
LEx   30 3 5.149E-011
LCx   11 1  3.501E-010
CBEPCK 20 30  4.195E-015
CBCPCK 20 11  4.235E-014
CCEPCK 11 30  2.35E-014

Q1 11 22 33 M_BFR340F

.MODEL 	M_BFR340F	NPN(										
+	IS	=	2.588E-017									
+	BF	=	208.3									
+	NF	=	1									
+	VAF	=	80.12									
+	IKF	=	0.1012									
+	ISE	=	1.921E-015									
+	NE	=	2									
+	BR	=	8.99		
+	NR	=	0.95		
+	VAR	=	2.277	
+	IKR	=	0.1924		
+	ISC	=	3.85E-015		
+	NC	=	1.5		
+	RB	=	10.26		
+	IRB	=	0		
+	RBM	=	4.697	
+	RE	=	1.016		
+	RC	=	5.655	
+	XTB	=	-1.003		
+	EG	=	1.11		
+	XTI	=	2.728		
+	CJE	=	9.724E-014		
+	VJE	=	0.693		
+	MJE	=	0.2059		
+	TF	=	6.027E-012		
+	XTF	=	12.98		
+	VTF	=	1.928		
+	ITF	=	0.04152		
+	PTF	=	0.1		
+	CJC	=	1.25E-013		
+	VJC	=	0.5602		
+	MJC	=	0.09189		
+	XCJC	=	0.7499		
+	TR	=	8.853E-005
+	CJS	=	0		
+	MJS	=	1
+	VJS	=	1		
+	FC	=	0.5		
+	KF	=	3.4E-10		
+	AF	=	2.1)			
***************************************************************					
					

.ENDS BFR340F
