***************************************************************												
*	Infineon	Technologies	AG									
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX				
*	VALID	UP	TO	10	GHZ							
*	>>>	BFR740L3RH	<<<								
*	(C)	2012	Infineon	Technologies	AG							
*	Version 3.0	May	2012							
*
* 	Harald Boehm
***************************************************************
* - Please use the global SPICE parameter TEMP to set the junction 
*   temperature of this device in your circuit to get correct DC 
*   simulation results. 
* - TEMP is calculated by TEMP=TA+Pdc*(RthJS+RthSA). The junction 
*   temperature TEMP is the sum of the ambient temperature TA and 
*   the increment of temperature caused by the dissipated power 
*   P=VCE*IC (IC collector current, VCE collector-emitter voltage). 
* - RthJS is the thermal resistance between the junction and the 
*   soldering point. RthJS for this device is 320 K/W. RthSA is the 
*   thermal resistance of the PCB, from the soldering point to the 
*   ambient. For determination of RthSA please refer to Infineon's 
*   Application Note -Thermal Resistance Calculation- AN077. 
* - The model has been verified in the junction temperature range 
*   -25°C to +125°C. 
* - TNOM=25 °C is the nominal ambient temperature. 
*   Please do not change this value. 
***************************************************************                 
*BFR740L3RH C B E
.SUBCKT BFR740L3RH 1 2 3


CBEPAR 22 33 1.172E-014
CBCPAR 22 11 4.305E-014
CCEPAR 11 33 1.735E-013

LB    222 20 4E-010
LC    111 10  4E-010
RBs   222 22 0.001
RCs   111 11 0.001

CBEPCK 20 30  3E-014
CBCPCK 20 10  1.033E-014
CCEPCK 10 30  1E-013
LBX    20 2 1E-010
LEX   30 3 1E-011
LCX   10 1  5E-011
RSUB 30 4 0.19
RSUBNPN 44 4 578
Rpsinker 4 33 0.16

Q1 11 22 33 44 M_BFR740L3RH

K LB LC 0.1



.MODEL 	M_BFR740L3RH	NPN(										
+	IS	=	1.362E-015									
+	BF	=	632									
+	NF	=	1.027									
+	VAF	=	120									
+	IKF	=	0.09421									
+	ISE	=	1.4E-013									
+	NE	=	2.6									
+	BR	=	100		
+	NR	=	1		
+	VAR	=	1.7	
+	IKR	=	0.0035		
+	ISC	=	5E-015		
+	NC	=	2		
+	RB	=	2		
+	IRB	=	0.000889		
+	RBM	=	0.6	
+	RE	=	0.1019		
+	RC	=	5.14	
+	XTB	=	-2.482		
+	EG	=	1.034		
+	XTI	=	0.808		
+	CJE	=	3.14E-013		
+	VJE	=	0.8119		
+	MJE	=	0.1431		
+	TF	=	1.667E-012		
+	XTF	=	200		
+	VTF	=	0.3493		
+	ITF	=	0.3		
+	PTF	=	1		
+	CJC	=	8.419E-014		
+	VJC	=	0.4412		
+	MJC	=	0.3364		
+	XCJC	=	0.6466		
+	TR	=	2.786E-008
+	CJS	=	2.229E-013		
+	MJS	=	0.2684
+   VJS =   0.4393 		
+	FC	=	0.8156		
+	KF	=	2.56E-011		
+	AF	=	1.798)
***************************************************************					
					

.ENDS BFR740L3RH
